US08871756B2
N-[(3-Amino oxetan-3-yl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine
The title compound was prepared in analogy to Example 2-1 in Scheme 4 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 3-(aminomethyl)-N,N-dibenzyloxetan-3-amine. MS obsd. (ESI+) [(M+H)+] 439, 1H NMR (400 MHz, CD3OD) δ ppm 7.98 (dd, J=1.2, 7.6 Hz, 1 H), 7.90 (d, J=6.8 Hz, 1 H), 7.66 (s, 1 H), 7.62 (td, J=1.2, 7.6 Hz, 1 H), 7.47-7.43 (m, 2 H), 7.30 (dd, J=1.6, 8.4 Hz, 1 H), 6.20 (s, 1 H), 5.18 (s, 2 H), 4.63 (d, J=6.4 Hz, 2 H), 4.59 (d, J=6.8 Hz, 2 H), 4.59 (brs, 2 H), 3.68 (s, 2 H), 3.59 (t, J=4.4 Hz, 2 H), 2.42 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 3-(aminomethyl)-N,N-dibenzyloxetan-3-amine | NCC1(COC1)N(CC1=CC=CC=C1)CC1=CC=CC=C1 | C18H22N2O
product | N-[(3-Amino oxetan-3-yl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-amine | NC1(COC1)CNC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C23H26N4O3S
